US06124294
b) 4-Methyl-3-[3-(4-{3-trifluoromethylphenyl}piperazinyl)propylmercapto]-4H-1,2,4-triazole
1.15 g (10 mmol) of 3-mercapto-4-methyl-4H-1,2,4-triazole, 3.1 g (10.1 mmol) of 1-(3-chloropropyl)-4-(3-trifluoromethylphenyl)piperazine and 1.5 g (15 mmol) of triethylamine in 5 ml of DMF were stirred at 100° C. for 1 hour. The mixture was then poured into 5% strength hydrochloric acid and extracted with ethyl acetate. The aqueous phase was made alkaline with sodium hydroxide solution and then extracted again with ethyl acetate, and the organic phase was dried over MgSO4 and concentrated. The residue was purified by chromatography (mobile phase: CH2Cl2 /CH3OH=95/5). 2.1 g of product were obtained as a yellowish oil (=55% yield).

reactant | 3-mercapto-4-methyl-4H-1,2,4-triazole | 10 mmol, 1.15 g | SC1=NN=CN1C | C3H5N3S
reactant | 1-(3-chloropropyl)-4-(3-trifluoromethylphenyl)piperazine | 10.1 mmol, 3.1 g | ClCCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C14H18ClF3N2
reactant | triethylamine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-Methyl-3-[3-(4-{3-trifluoromethylphenyl}piperazinyl)propylmercapto]-4H-1,2,4-triazole | 2.1 g, 55% yield | CN1C(=NN=C1)SCCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C17H22F3N5S
